* extracted by klt extract --deck sky130

* cell bias_core_settle_flag
* pin bias_ok
* pin na
* pin nbtop
* pin nkg
* pin nokl
* pin noko
* pin nokx
* pin pb
* pin tok
* pin vdd
* pin vss
.SUBCKT bias_core_settle_flag bias_ok na nbtop nkg nokl noko nokx pb tok vdd vss
* device instance $1 r0 *1 10.42,1 nfet
M$1 nokl nokl vss vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $2 r0 *1 17.92,1 nfet
M$2 noko nokl vss vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $3 r0 *1 23.92,1 nfet
M$3 noko nkg vss vss nfet L=1U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $4 r0 *1 30.42,1 nfet
M$4 nokx noko vss vss nfet L=4U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $5 r0 *1 36.67,2 nfet
M$5 bias_ok nokx vss vss nfet L=0.5U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $6 r0 *1 2.42,15.47 pfet
M$6 tok pb vdd vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $7 r0 *1 29.42,15.47 pfet
M$7 nokx pb vdd vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $8 r0 *1 38.42,15.47 pfet
M$8 bias_ok nokx vdd vdd pfet L=4U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $9 r0 *1 11.42,18.97 pfet
M$9 nokl nbtop tok vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $10 r0 *1 20.58,18.97 pfet
M$10 tok na noko vdd pfet L=4U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
.ENDS bias_core_settle_flag
